US04246345
Oxidation of 1-amino-1-deoxy-D-glucitol by a cell-free extract of Glucobacter oxydans ssp. suboxydans
Glucobacter oxydans ssp. suboxydans is cultured, on a 10 l scale, in a fermenter in a medium which contains, per 1 l, 100 g of sorbitol, 20 g of yeast extract and 2 g of KH2PO4 --dissolved in tap water. 5 l of air per minute are blown through the fermenter and the fermenter is stirred at 500 rpm and kept at a temperature of 30° C. After a 16 hour incubation period, the cells are centrifuged off from the culture broth, washed once by suspending in 10 mM KH2PO4 and again centrifuging and then suspended in 300 ml of 10 mM KH2PO4. The cell suspension thus obtained is broken up by passing twice through a French pressure cell under 8 bars. The cell-free extract is introduced into a 1 l conical flask, 1-amino-1-deoxy-D-glucitol (oxalate salt) is added to give a concentration of 10 g/l and the mixture is incubated at 30° C. on a rotary shaker at 280 rpm. After 7 hours it is possible to detect 3.7 g/l of 6-amino-6-deoxy-L-sorbose--corresponding to a 37% conversion--in this extract, with the aid of the saccharase inhibitory activity. The reaction is discontinued at this time and the extract is worked up as indicated in Example 1.

reactant | sorbitol | 1 l, 100 g | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | 6-amino-6-deoxy-L-sorbose | NC[C@@H]([C@H]([C@@H](C(CO)=O)O)O)O | C6H13NO5
product | 1-amino-1-deoxy-D-glucitol | NC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H15NO5
